US04639518
3-(2-Chloroethyl)-5,6-dimethoxyquinazolin-2,4(1H, 3H)-dione
A mixture of 5,6-dimethoxy-3-hydroxyethylquinazolin-2,4-dione (2.0 g, 7.51 mM) and thionyl chloride (0.76 ml, 10.45 mM) in CHCl3 (20 ml) was heated at reflux for 4 hours under nitrogen with vigorous mechanical stirring. Trituration of the solid reaction mixture followed by drying afforded crude product as an off-white solid. The crude product was recrystallized from MeOH (100 ml) and dried to afford the title compound as a white solid; 0.86; (A); mp 118°-120° C.

reactant | 5,6-dimethoxy-3-hydroxyethylquinazolin-2,4-dione | 7.51 mM, 2.0 g | COC1=C2C(N(C(NC2=CC=C1OC)=O)CCO)=O | C12H14N2O5
reactant | thionyl chloride | 10.45 mM, 0.76 ml | S(=O)(Cl)Cl | Cl2OS
solvent | CHCl3 | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(2-Chloroethyl)-5,6-dimethoxyquinazolin-2,4(1H, 3H)-dione | ClCCN1C(NC2=CC=C(C(=C2C1=O)OC)OC)=O | C12H13ClN2O4
